US20010023935A1
Similarly to the method described by Kumar, S., J.Org.Chem. 62, 8535 (1997), 2-bromo-5-methoxy-benzaldehyde (for preparation see Ex. 1) and 4-trifluoromethoxyphenylboronic acid {prepared in a conventional manner from 4-trifluoromethoxy-bromobenzene [407-14-7]} are reacted to give 2-formyl-4-propyloxy-4′-trifluoromethoxy-biphenyl. Similarly to the method described in the same reference, this compound is reacted with trimethylsulfonium iodide under phase transfer conditions to give the corresponding oxiranyl derivative which can be isolated, but can alternatively advantageously be directly converted into the target compound by reaction with methanesulfonic acid (as described by Kumar, loc. cit.). Aqueous workup can be followed by purification as described in Ex. 1.

reactant | 2-bromo-5-methoxy-benzaldehyde | BrC1=C(C=O)C=C(C=C1)OC | C8H7BrO2
reactant | 4-trifluoromethoxyphenylboronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | 4-trifluoromethoxy-bromobenzene | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
product | 2-formyl-4-propyloxy-4′-trifluoromethoxy-biphenyl | C(=O)C1=C(C=CC(=C1)OCCC)C1=CC=C(C=C1)OC(F)(F)F | C17H15F3O3
